US07495103B2
2-tert-Butyl-4-(3-methoxycarbonylphenyl)-5-aminophenol (C-17) was synthesized following the general scheme above starting from 2-tert-butyl-4-bromo-5-nitrophenol (C-14-a) and 3-(methoxycarbonyl)phenylboronic acid. HPLC ret. time 2.70 min, 10-99% CH3CN, 5 min run; ESI-MS 300.5 m/z (MH+).

reactant | 2-tert-butyl-4-bromo-5-nitrophenol | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])O | C10H12BrNO3
reactant | 3-(methoxycarbonyl)phenylboronic acid | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
solvent | CH3CN | CC#N | C2H3N
product | 2-tert-Butyl-4-(3-methoxycarbonylphenyl)-5-aminophenol | C(C)(C)(C)C1=C(C=C(C(=C1)C1=CC(=CC=C1)C(=O)OC)N)O | C18H21NO3
